US05445762
7,13-Bis(2,2-dimethylbutyroyl)-1,4,10-trioxa-7,13-diazacyclopentadecane
Analogously to Example 2 from 1,4,10-trioxa-7,13-diazacyclopentadecane and 2,2-dimethylbutyryl chloride.

reactant | 1,4,10-trioxa-7,13-diazacyclopentadecane | O1CCOCCNCCOCCNCC1 | C10H22N2O3
reactant | 2,2-dimethylbutyryl chloride | CC(C(=O)Cl)(CC)C | C6H11ClO
product | 7,13-Bis(2,2-dimethylbutyroyl)-1,4,10-trioxa-7,13-diazacyclopentadecane | CC(C(=O)N1CCOCCOCCN(CCOCC1)C(C(CC)(C)C)=O)(CC)C | C22H42N2O5
